US09238631B2
f) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[3-tert-butoxy-4-(2-hydroxyethoxy)benzyl]-L-glutamate
To a solution of 340 mg (0.506 mmol) di-tert-butyl (4S)-4-{4-[2-(benzyloxy)ethoxy]-3-tert-butoxybenzyl}-N-(tert-butoxycarbonyl)-L-glutamate in 5 ml methanol was added a little amount of palladium on carbon. The solution is stirred in hydrogen atmosphere for 4 hours. The reaction mixture is filtrated. The filtrate is concentrated. The crude product is concentrated in vacuo. The crude product (310 mg) was used in the following reaction without further purification.

reactant | di-tert-butyl (4S)-4-{4-[2-(benzyloxy)ethoxy]-3-tert-butoxybenzyl}-N-(tert-butoxycarbonyl)-L-glutamate | 0.506 mmol, 340 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1)OC(C)(C)C | C38H57NO9
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
product | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[3-tert-butoxy-4-(2-hydroxyethoxy)benzyl]-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)OCCO)OC(C)(C)C)C(=O)OC(C)(C)C | C31H51NO9
